US07001904B1
N-carboxymethyl-N′-(2,6-dimethylphenyl)-N″-[6-methoxy-7-(2-pyrrolidin-1-ylethoxy)quinazolin-4-yl]guanidine
Using an analogous procedure to that described in Example 4, N-(tert-butoxycarbonylmethyl)-N′-(2,6-dimethylphenyl)-N″-[6-methoxy-7-(2-pyrrolidin-1-ylethoxy)quinazolin-4-yl]guanidine was reacted with trifluoroacetic acid to give the title compound in 65% yield; NMR Spectrum: (DMSOd6, 100° C.) 1.78 (m, 4H), 2.32 (s, 6H), 2.67 (m, 4H), 2.94 (t, 2H), 3.85 (s, 3H), 4.09 (s, 2H), 4.28 (t, 2H), 7.1 (s, 1H), 7.19 (s, 3H), 7.74 (s, 1H), 8.48 (s, 1H), 10.8–11.7 (br s, 1H); Mass Spectrum: M+H+ 493.

reactant | N-(tert-butoxycarbonylmethyl)-N′-(2,6-dimethylphenyl)-N″-[6-methoxy-7-(2-pyrrolidin-1-ylethoxy)quinazolin-4-yl]guanidine | C(C)(C)(C)OC(=O)CNC(=NC1=NC=NC2=CC(=C(C=C12)OC)OCCN1CCCC1)NC1=C(C=CC=C1C)C | C30H40N6O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | N-carboxymethyl-N′-(2,6-dimethylphenyl)-N″-[6-methoxy-7-(2-pyrrolidin-1-ylethoxy)quinazolin-4-yl]guanidine | 65% yield | C(=O)(O)CNC(=NC1=NC=NC2=CC(=C(C=C12)OC)OCCN1CCCC1)NC1=C(C=CC=C1C)C | C26H32N6O4
